US06562811B1
To a suspension of cyanoacetamide (1.27 g, 15.1 mmol) in 2-propanol (50 mL) was added sodium hydride (60% suspension, 0.605 g, 15.1 mmol). The mixture was stirred at room temperature for 10 min. To this mixture, 1-[2-(benzyl)phenyl]-3,3-bis(methylthio)-2-propene-1-one (5.00 g, 15.1 mmol) was added in one portion. The resulting mixture was refluxed for 4 hrs. After being cooled to room temperature, the mixture was diluted with 1N HCl. The resulting precipitates were collected by filtration and washed with EtOH to give 6-[2-(benzyloxy)phenyl]-4-(methylthio)-2-oxo-1,2-dihydro-nicotinonitrile as a yellow crystalline solid (4.43 g, yield; 84%).

reactant | cyanoacetamide | 15.1 mmol, 1.27 g | C(#N)CC(=O)N | C3H4N2O
reactant | sodium hydride | 15.1 mmol, 0.605 g | [H-].[Na+]
reactant | 1-[2-(benzyl)phenyl]-3,3-bis(methylthio)-2-propene-1-one | 15.1 mmol, 5.00 g | C(C1=CC=CC=C1)C1=C(C=CC=C1)C(C=C(SC)SC)=O | C18H18OS2
reactant | 2-propanol | 50 mL | CC(C)O | C3H8O
solvent | HCl | 1N | Cl | ClH
product | 6-[2-(benzyloxy)phenyl]-4-(methylthio)-2-oxo-1,2-dihydro-nicotinonitrile | 4.43 g, yield; 84% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1NC(C(C#N)=C(C1)SC)=O | C20H16N2O2S
